US04435403
3rd stage: In sequence, 27 g of pulverulent potassium hydroxide, 27 ml of methyl iodide and 2.7 g of tetrabutyl-ammonium-hydrogen-sulfate are added to a solution of 13.5 g of 4-hydroxymethyl-1-tosylindole in 400 ml of methylene chloride. The substance is strongly agitated for 24 h. Then, it is filtered off of the potassium hydroxide, washed neutral with water, and the solvent is distilled off. The raw product (16.46 g) is crystallized out of diisopropylether. 12.2 g of 4-methoxymethyl-1-tosylindole with a m.p. of 85.5°-89° C. is obtained.

reactant | potassium hydroxide | 27 g | [OH-].[K+]
reactant | methyl iodide | 27 ml | CI | CH3I
reactant | 4-hydroxymethyl-1-tosylindole | 13.5 g | OCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C16H15NO3S
catalyst | tetrabutyl-ammonium hydrogen-sulfate | 2.7 g | C(CCC)[N+](CCCC)(CCCC)CCCC.S(=O)(=O)(O)[O-]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxymethyl-1-tosylindole | 12.2 g | COCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C17H17NO3S
